US06589970B2
A mixture of 2-butyl-1-methyl-1H-indole-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide (2.09 g, 4.36 mmol), prepared in the previous step, bromoacetonitrile (364 μL, 5.23 mmol) and potassium carbonate (3.01 g, 21.8 mmol) in 50 mL of DMF was stirred under nitrogen at room temperature for 16 h (overnight). The reaction was partitioned between ethyl acetate and water. The organic layer was separated, extracted multiple times with water, dried (MgSO4) and the solvent removed under reduced pressure to give 2-butyl-1-methyl-1H-indole-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide (2.00 g, 88%) as a brown solid foam, MS m/z: 518 [M+H]+.

reactant | 2-butyl-1-methyl-1H-indole-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide | 4.36 mmol, 2.09 g | BrC1=C2C=CC(=CC2=CC=C1O)CN(C(=O)C1=C(N(C2=CC=CC=C12)C)CCCC)C | C26H27BrN2O2
reactant | bromoacetonitrile | 5.23 mmol, 364 μL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 21.8 mmol, 3.01 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-butyl-1-methyl-1H-indole-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide | 2.00 g, 88% | BrC1=C2C=CC(=CC2=CC=C1OCC#N)CN(C(=O)C1=C(N(C2=CC=CC=C12)C)CCCC)C | C28H28BrN3O2
